US03962274
To 10 parts of sodium azide is added a solution of 32 parts of 2-(5-nitro-2-methyl-1-imidazolyl)ethyl methanesulfonate (Ger. Pat. No. 2,030,314) in 250 parts of warm N,N-dimethylformamide. The resultant mixture is stirred at approximately 50° for 6 hours, then diluted with 1000 parts of cold water. Sufficient potassium carbonate is added to insure basicity. The mixture thus obtained is extracted with toluene. The toluene extract is washed with water, dried over anhydrous potassium carbonate, and stripped of solvent by vacuum distillation, affording 1-(2-azidoethyl)-2-methyl-5-nitroimidazole as a yellow oil which is further purified by crystallization from ether. Isolated by filtration, washed with a 1:1 mixture of ether and hexane, and dried in air the purified product melts at 53°-54°. It has the formula ##SPC6##

reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 2-(5-nitro-2-methyl-1-imidazolyl)ethyl methanesulfonate | CS(=O)(=O)OCCN1C(=NC=C1[N+](=O)[O-])C | C7H11N3O5S
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-(2-azidoethyl)-2-methyl-5-nitroimidazole | N(=[N+]=[N-])CCN1C(=NC=C1[N+](=O)[O-])C | C6H8N6O2
